US07683091B2
N-(4-{[5-({[4-(Trifluoromethoxy)phenyl]sulfonyl}amino)-1H-indol-1-yl]methyl}benzoyl)-β-alanine
The title compound was prepared from 4-[(5-nitro-1H-indol-1-yl)methyl]benzoic acid, β-alanine ethyl ester hydrochloride, and 4-trifluoromethoxyphenyl sulfonyl chloride following the procedure of Example 10: MS (ESI) m/z 562; MS (ESI) m/z 560.

reactant | 4-[(5-nitro-1H-indol-1-yl)methyl]benzoic acid | [N+](=O)([O-])C=1C=C2C=CN(C2=CC1)CC1=CC=C(C(=O)O)C=C1 | C16H12N2O4
reactant | β-alanine ethyl ester hydrochloride | Cl.C(C)OC(CCN)=O
reactant | 4-trifluoromethoxyphenyl sulfonyl chloride | FC(OC1=CC=C(C=C1)S(=O)(=O)Cl)(F)F | C7H4ClF3O3S
product | N-(4-{[5-({[4-(Trifluoromethoxy)phenyl]sulfonyl}amino)-1H-indol-1-yl]methyl}benzoyl)-β-alanine | FC(OC1=CC=C(C=C1)S(=O)(=O)NC=1C=C2C=CN(C2=CC1)CC1=CC=C(C(=O)NCCC(=O)O)C=C1)(F)F | C26H22F3N3O6S
